US04416687
Preparation of 4-[3,5-bis(trifluoromethyl)phenoxy]-butanoic acid
A stirred charge containing 0.05 mole of ethyl-4-[3,5-bis-(trifluoromethyl)phenoxy]butyrate, 150 ml of ethyl alcohol, 8 g (0.1 mole) of 50% aqueous solution of sodium hydroxide and 25 ml of water was heated at reflux for 5 hours and at 25°-30° C. for 18 hours. After cooling to 5° C., 800 ml of water containing 15 g (0.15 mole) of concentrated hydrochloric acid was added slowly. After stirring at 0°-10° C. for one hour, the resulting solid was collected by filtration, washed with cold water and air dried at 25°-30° C. A product with a melting point of 85°-87° C. was obtained with a yield of 87%.

reactant | ethyl-4-[3,5-bis-(trifluoromethyl)phenoxy]butyrate | 0.05 mole | C(C)OC(CCCOC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C14H14F6O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 25 ml | O | H2O
solvent | ethyl alcohol | 150 ml | C(C)O | C2H6O
solvent | water | 0.15 mole, 800 ml, 15 g | O | H2O
product | 4-[3,5-bis(trifluoromethyl)phenoxy]-butanoic acid | yield of 87% | FC(C=1C=C(OCCCC(=O)O)C=C(C1)C(F)(F)F)(F)F | C12H10F6O3
